US05470851
3-t-Butoxycarbonyl-4(R)-[3-(4-diphenylmethyl-1-piperazinyl)propylcarbamoyl]-2-(3-pyridyl)thiazolidine
A mixture of 500 mg (1.61 mmole) of 3-t-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4(R)-carboxylic acid, 500 mg (1.61 mmole) of 1-(3-aminopropyl)-4-(diphenylmethyl) piperazine (prepared as described in Preparation 16'), 263 mg (1.61 mmole) of diethylphosphoryl cyanide, 163 mg (1.61 mmole) of triethylamine and 10 ml of tetrahydrofuran was stirred at room temperature overnight. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, diluted with water and extracted with methylene chloride. The solvent was then removed by evaporation under reduced pressure, and the resulting residue was subjected to column chromatography through alumina, using ethyl acetate as the eluent, to afford 840 mg (yield 89%) of the title compound as an oil.

reactant | 3-t-butoxycarbonyl-2-(3-pyridyl)thiazolidine-4(R)-carboxylic acid | 1.61 mmole, 500 mg | C(C)(C)(C)OC(=O)N1C(SC[C@H]1C(=O)O)C=1C=NC=CC1 | C14H18N2O4S
reactant | 1-(3-aminopropyl)-4-(diphenylmethyl) piperazine | 1.61 mmole, 500 mg | NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H27N3
reactant | diethylphosphoryl cyanide | 1.61 mmole, 263 mg | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | triethylamine | 1.61 mmole, 163 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-t-Butoxycarbonyl-4(R)-[3-(4-diphenylmethyl-1-piperazinyl)propylcarbamoyl]-2-(3-pyridyl)thiazolidine | 840 mg, yield 89% | C(C)(C)(C)OC(=O)N1C(SC[C@H]1C(NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=1C=NC=CC1 | C34H43N5O3S
